US06593330B2
2-[2-(7-Methoxy-naphthalen-2-yloxy)-ethoxy]-6-(1-piperazinyl)pyrazine
The title compound was prepared according to the procedure of example 50, step 2, starting from 2-chloro-6-[2-(7-methoxy-naphthalen-2-yloxy)-ethoxy]pyrazine [1.19 g, 3.60 mmol; obtained according to the procedure of example 50, step 1, starting from 2-(7-methoxy-naphthalen-2-yloxy)ethanol*], piperazine (1.25 g, 14.5 mmol) and K2CO3 (0.60 g, 4.3 mmol) with the exception that the final filtration through alumina was omitted. The yield of the of the title compound was 0.98 g (71%) which was obtained as an oil that solidified when refrigerated. Purity 100% (HPLC). MS m/z 380 (M)+. HRMS m/z calcd for C21H24N4O3 (M)+ 380.1848, found 380.1851.

reactant | 2-chloro-6-[2-(7-methoxy-naphthalen-2-yloxy)-ethoxy]pyrazine | ClC1=NC(=CN=C1)OCCOC1=CC2=CC(=CC=C2C=C1)OC | C17H15ClN2O3
reactant | 2-(7-methoxy-naphthalen-2-yloxy)ethanol | COC1=CC=C2C=CC(=CC2=C1)OCCO | C13H14O3
reactant | piperazine | 14.5 mmol, 1.25 g | N1CCNCC1 | C4H10N2
reactant | K2CO3 | 4.3 mmol, 0.60 g | C(=O)([O-])[O-].[K+].[K+]
product | 2-[2-(7-Methoxy-naphthalen-2-yloxy)-ethoxy]-6-(1-piperazinyl)pyrazine | COC1=CC=C2C=CC(=CC2=C1)OCCOC1=NC(=CN=C1)N1CCNCC1 | C21H24N4O3
